US04973586
(a) 1-(3-Methoxyphenyl)-3,4-dihydronaphthalene
A solution of the Grignard reagent derived from 50 g (0.27 mol) of 3-bromoanisole in 200 ml of dry THF was treated with a solution of alpha-tetralone in 100 ml of THF added over 1 hour while maintaining the internal temperature at 15°-25° C. After stirring overnight, the mixture was diluted with 500 ml of ether and quenched with 200 ml of 20% aqueous ammonium chloride. The aqueous layer was extracted with 200 ml of ether. The combined organic layers were dried over MgSO4 and evaporated to 66.5 g of the oily alcohol. This was dissolved in 450 ml of dry toluene containing 0.020 g of p-toluenesulfonic acid and refluxed overnight in a Dean-Stark apparatus. After cooling, the mixture was washed with 100 ml of 5% sodium bicarbonate, with 100 ml of water, and then with 100 ml of brine. The mixture was dried over MgSO4 and evaporated. The residue was distilled under reduced pressure to give the title compound, b.p. (0.5 mm) 158°-162° C.

reactant | 3-bromoanisole | 0.27 mol, 50 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | alpha-tetralone | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 1-(3-Methoxyphenyl)-3,4-dihydronaphthalene | COC=1C=C(C=CC1)C1=CCCC2=CC=CC=C12 | C17H16O
